US06713474B2
a) 4-Bromo-2-phenoxybenzaldehyde
The title compound was prepared in a 46% yield from 5-bromo-2-fluoro-benzaldehyde and phenol in a manner similar to that described for the preparation of 5-bromo-phenoxybenzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 10.32(s, 1H), 7.92(s, 1H), 7.81(d, 1H), 7.46(t, 2H), 7.27(t, 1H), 7.18(d, 2H), 6.90(d, 1H) RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 13.08 min.

reactant | 5-bromo-2-fluoro-benzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 5-bromo-phenoxybenzonitrile | BrC=1C=CC=C(OC2=C(C#N)C=CC=C2)C1 | C13H8BrNO
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 4-Bromo-2-phenoxybenzaldehyde | 46% yield | BrC1=CC(=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9BrO2
